US08133995B2
N-{4-[4-amino-6-(fluoromethyl)-7-(morpholin-4-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoromethyl)pyridin-2-yl]urea
The title compound was prepared in a manner similar to the procedure described for the preparation of Example 87, using N-{4-[4-amino-6-(hydroxymethyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f]-[1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoro-methyl)-pyridin-2-yl]urea (which can be prepared using the procedure used for the preparation of Example 62 substituting Intermediate AJ for Intermediate Y) in place of Example 85 (N-{4-[4-amino-6-formyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f]-[1,2,4]triazin-5-yl]phenyl}-N′-[4-(trifluoro-methyl)pyridin-2-yl]urea), 45 mg (23%) of the desired product was isolated. 1H-NMR (DMSO-d6) δ 10.16-10.10 (m, 2H), 8.54 (d, J=5.1 Hz, 1H), 8.31 (t, J=8.4 Hz, 1H), 8.01 (s, 1H), 7.95 (s, 1H), 7.39-7.19 (m, 3H), 5.35 (d, J=49.8 Hz, 2H), 3.92 (s, 2H), 3.53-3.52 (m, 4H), 2.48-2.43 (m, 4H); MS [M+H]+=562.7; LCMS RT=2.50.

reactant | N-{4-[4-amino-6-(hydroxymethyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f]-[1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoro-methyl)-pyridin-2-yl]urea | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)CO)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)F | C25H24F4N8O3
reactant | N-{4-[4-amino-6-formyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f]-[1,2,4]triazin-5-yl]phenyl}-N′-[4-(trifluoro-methyl)pyridin-2-yl]urea | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)C=O)C2=CC=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F | C25H23F3N8O3
product | N-{4-[4-amino-6-(fluoromethyl)-7-(morpholin-4-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoromethyl)pyridin-2-yl]urea | 45 mg, 23% | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)CF)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)F | C25H23F5N8O2
